US07173044B2
Part A: To a suspension of 4-chlorobenzenesulfonamide (0.45 gram, 0.00236 mol) in benzene (5 ml) is dropwise added trimethylaluminum (1.2 ml of a 2N solution in toluene, 0.0024 mol) to give a clear solution which is stirred at room temperature for 1 hour. 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-4,5-dihydro-1H-imidazole-4-carbonitrile (0.55 gram, 0.00157 mol) is added and the resulting mixture is heated at 90° C. for 16 hours. After cooling to room temperature a mixture of methanol/water (8/2 (v/v)) is slowly added, the solids are removed by filtration and washed with chloroform (50 ml). The filtrate is concentrated in vacuo. The residue is triturated with n-pentane and twice recrystallised from methanol to give 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-N-[(4-chlorophenyl)sulfonyl]-4,5-dihydro-1H-imidazole-4-carboxamidine (0.435 gram, 51% yield). Melting point: 165–166° C. 1H-NMR (200 MHz, CDCl3): δ 4.11–4.35 (m, 2H), 4.94 (dd, J=12 and 10 Hz, 1H), 6.63 (br d, J=8 Hz, 2H), 7.12 (br d, J=8 Hz, 2H), 7.22–7.52 (m, 6H), 7.90 (br d, J=8 Hz, 2H), 8.10–8.20 (m, 1H).

reactant | 4-chlorobenzenesulfonamide | 0.00236 mol, 0.45 gram | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | trimethylaluminum | C[Al](C)C
reactant | 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)-4,5-dihydro-1H-imidazole-4-carbonitrile | 0.00157 mol, 0.55 gram | ClC1=CC=C(C=C1)N1C(=NC(C1)C#N)C1=C(C=C(C=C1)Cl)Cl | C16H10Cl3N3
reactant | methanol water | CO.O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-N-[(4-chlorophenyl)sulfonyl]-4,5-dihydro-1H-imidazole-4-carboxamidine | 0.435 gram, 51% yield | ClC1=CC=C(C=C1)N1C(=NC(C1)C(=N)NS(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H16Cl4N4O2S
